US05786379
(c) Preparation of 3-(1-adamantyl)-4-methoxyethoxymethoxybenzoyl chloride
A solution of 3 g (8.3 mmol) of 3-(1-adamantyl)-4-methoxyethoxymethoxybenzoic acid in 50 ml of anhydrous dichloromethane was introduced into a round-bottomed flask, 1.7 ml (8.3 mmol) of dicyclohexylamine was added and the mixture was stirred for one hour. 600 μl (8.3 mmol) of thionyl chloride were then added and the mixture was stirred for one hour. It was evaporated to dryness, the residue was taken up in anhydrous ethyl ether, the dicyclohexylamine salt was filtered off and the filtrate was evaporated. 3.3 g (100%) of the crude acid chloride, which was used without further purification for the remainder of the synthesis, were recovered.

reactant | 3-(1-adamantyl)-4-methoxyethoxymethoxybenzoic acid | 8.3 mmol, 3 g | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C(=O)O)C=CC2OCOCCOC | C21H28O5
reactant | dicyclohexylamine | 8.3 mmol, 1.7 ml | C1(CCCCC1)NC1CCCCC1 | C12H23N
reactant | thionyl chloride | 8.3 mmol, 600 μl | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 3-(1-adamantyl)-4-methoxyethoxymethoxybenzoyl chloride | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C(=O)Cl)C=CC2OCOCCOC | C21H27ClO4
